US06828460B2
tert-Butyl (4-{4-[2,4-bis(methoxymethoxy)phenyl]-3-cyclohexen-1-yl}phenoxy) dimethylsilane
A round bottomed flask equipped with magnetic stirrer was charged with 4-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-1-[2,4-bis(methoxymethoxy) phenyl]cyclohexanol (125 mg, 0.25 mmol), toluene (10 ml) and p-toluene sulfonic acid monohydrate (3 crystals). The reaction mixture was heated to reflux temperature for 30 min, then cooled to room temperature before adding saturated aqueous sodium bicarbonate (5 ml). The layers were separated and the aqueous layer was extracted with ethyl acetate (3×10 ml). The combined organic layers were washed with brine (10 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. The title compound was isolated without further purification as an oil (118 mg, 98%) and a mixture of diastereoisomers. δH(CDCl3) 0.19 (6H, s), 0.98 (9H, s), 1.84 (1H, m), 2.00 (1H, m), 2.27 (1H, m), 2.44 (2H, m), 2.56 (1H, m), 3.48 (3H, s), 3.49 (3H, s), 5.15 (2×2H, s), 5.79 (1H, m), 6.67 (1H, dd), 6.77 (2H, d), 6.78 (1H, d), 7.07 (2H, d), 7.11 (1H, d).

reactant | 4-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-1-[2,4-bis(methoxymethoxy) phenyl]cyclohexanol | 0.25 mmol, 125 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1CCC(CC1)(O)C1=C(C=C(C=C1)OCOC)OCOC | C28H42O6Si
reactant | p-toluene sulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl (4-{4-[2,4-bis(methoxymethoxy)phenyl]-3-cyclohexen-1-yl}phenoxy) dimethylsilane | C(C)(C)(C)[Si](C)(C)OC1=CC=C(C=C1)C1CC=C(CC1)C1=C(C=C(C=C1)OCOC)OCOC | C28H40O5Si
